US08629147B2
4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-[6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one
A solution of 4-chloro-3-[6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one (53 mg, 0.13 mmol), (S)-2-amino-1-(3-chlorophenyl)-ethanol (27 mg, 0.156 mmol) and Et3N (26 mg, 0.26 mmol) in EtOH (0.5 mL) was heated at 80° C. for 18 h and then the reaction mixture was evaporated. The residue was purified by chromatography (150:8:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (25 mg, 35%). 1H NMR (MeOH-d4) δ 1.16 (t, J=8 Hz, 3H), 1.80-2.02 (4H), 2.48-2.80 (4H), 2.50 (s, 3H), 3.19-3.39 (4H), 3.63 (m, 2H), 4.81 (m, 1H), 4.95 (m, 2H), 6.18 (d, J=6 Hz, 1H), 6.38 (s, 1H), 6.44 (s, 1H), 7.17-7.31 (3H), 7.38 (d, J=6 Hz, 1H), 7.55 (s, 1H). ESI-MS m/z 547 (MH+).

reactant | 4-chloro-3-[6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one | 0.13 mmol, 53 mg | ClC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CC1(CC2)CN(CC1)CC | C22H26ClN5O
reactant | (S)-2-amino-1-(3-chlorophenyl)-ethanol | 0.156 mmol, 27 mg | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | Et3N | 0.26 mmol, 26 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | 4-[(S)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-[6-(7-ethyl-2,7-diaza-spiro[4.4]non-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one | 25 mg, 35% | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CC1(CC2)CN(CC1)CC)O | C30H35ClN6O2
